US07932399B2
2-Allyloxy-2-trifluoromethyl-but-3-enoic acid ethyl ester
To a solution of 2-hydroxy-2-trifluoromethyl-but-3-enoic acid ethyl ester (3.6 g) in THF (100 mL) at 0° C. was added sodium hydride (1.1 g of 60% in oil), followed by addition of allyl bromide (2.3 mL) and tetrabutyl ammonium iodide (1.35 g). The resulting mixture was then heated to reflux for 5 h. The reaction was carefully quenched with NH4Cl (aq), extracted with EtOAc, and dried over Na2SO4. After concentration, the resulting crude material was filtered through a plug of silica gel and rinsed with 20% CH2Cl2/hexanes, then concentrated to yield the title compound as a yellow oil.

reactant | 2-hydroxy-2-trifluoromethyl-but-3-enoic acid ethyl ester | 3.6 g | C(C)OC(C(C=C)(C(F)(F)F)O)=O | C7H9F3O3
reactant | sodium hydride | 1.1 g | [H-].[Na+]
reactant | allyl bromide | 2.3 mL | C(C=C)Br | C3H5Br
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | tetrabutyl ammonium iodide | 1.35 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-Allyloxy-2-trifluoromethyl-but-3-enoic acid ethyl ester | C(C)OC(C(C=C)(C(F)(F)F)OCC=C)=O | C10H13F3O3
